US07851629B2
4-[2-fluoro-3-(trifluoromethyl)phenyl]-1-ethylpiperidine
Preparation according to Example 2: 1-ethyl-4-[2-fluoro-3-(trifluoromethyl)phenyl]-1,2,3,6-tetrahydropyridine (3.1 g, 11.3 mmol), palladium on carbon (0.3 g), hydrochloric acid (1.5 ml, conc), methanol (30 ml). Yield: 2.3 g (74%). The amine was converted to the hydrochloric acid salt and recrystallized from ethanol/diethyl ether: M.p. 235-237° C. MS m/z (relative intensity, 70 eV) 275 (M+, 12), 261 (16), 260 (bp), 177 (10) 84 (13).

reactant | 1-ethyl-4-[2-fluoro-3-(trifluoromethyl)phenyl]-1,2,3,6-tetrahydropyridine | 11.3 mmol, 3.1 g | C(C)N1CCC(=CC1)C1=C(C(=CC=C1)C(F)(F)F)F | C14H15F4N
reactant | hydrochloric acid | 1.5 ml | Cl | ClH
catalyst | palladium on carbon | 0.3 g | [Pd] | Pd
solvent | methanol | 30 ml | CO | CH4O
product | 4-[2-fluoro-3-(trifluoromethyl)phenyl]-1-ethylpiperidine | FC1=C(C=CC=C1C(F)(F)F)C1CCN(CC1)CC | C14H17F4N
